US05849743
a) Preparation of 6-trifluoroacetamidoquinoxaline-2,3(1H,4H)-dione
A solution of 28 g (0.16 mol) of 6-aminoquinoxaline-2,3(1H,4H)-dione in 200 ml of trifluoroacetic acid was refluxed with 35.7 g (0.17 mol) of trifluoroacetic anhydride for one hour. The mixture was cooled and then the precipitated crude product was filtered off with suction and worked up by conventional methods. Yield: 83%. Melting point >330° C.

reactant | 6-aminoquinoxaline-2,3(1H,4H)-dione | 0.16 mol, 28 g | NC=1C=C2NC(C(NC2=CC1)=O)=O | C8H7N3O2
reactant | trifluoroacetic anhydride | 0.17 mol, 35.7 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-trifluoroacetamidoquinoxaline-2,3(1H,4H)-dione | Yield: 83% | FC(C(=O)NC=1C=C2NC(C(NC2=CC1)=O)=O)(F)F | C10H6F3N3O3
